US07037935B2
d) (RS)-1-[2-Fluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide
The title compound is prepared in analogy to Example 20d) from (RS)-1-[2-fluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid and methylamine. Yield: 39% of a brownish solid. MS: m/e=361.2 (M+H)+.

reactant | (RS)-1-[2-fluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid | FC1=C(C=CC(=C1)OCC1=CC(=CC=C1)F)N1CC(CC1=O)C(=O)O | C18H15F2NO4
reactant | methylamine | CN | CH5N
product | (RS)-1-[2-Fluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide | CNC(=O)C1CN(C(C1)=O)C1=C(C=C(C=C1)OCC1=CC(=CC=C1)F)F | C19H18F2N2O3
